US08604061B2
A solution of diethyl 1-phenylethyl phosphonate (2.35 ml) in 1,2-dimethoxyethane (15 ml) was cooled under an argon atmosphere to 0° C. and treated dropwise with an n-butyllithium solution (5.9 ml; 1.6 M in hexane). The reaction mixture was stirred for 5 min at 0° C., then treated dropwise with a solution of (R)-4-formyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (1.5 g) in 1,2-dimethoxyethane (15 ml). The solution was warmed to r.t., then refluxed overnight. After cooling to r.t., the mixture was quenched with water and extracted with EtOAc. The organic layer was dried over MgSO4, filtrated and concentrated. The crude product was isolated by column chromatography (SiO2; gradient: cyclohexane ->cyclohexane/EtOAc 1:1) to give (S)-2,2-dimethyl-4-((E)-2-phenyl-propenyl)-oxazolidine-3-carboxylic acid tert-butyl ester (720 mg) as light yellow viscous oil.

reactant | diethyl 1-phenylethyl phosphonate | 2.35 ml | CCOP(=O)(C(C)C1=CC=CC=C1)OCC | C12H19O3P
reactant | n-butyllithium | 1.6 M, 5.9 ml | C(CCC)[Li]
reactant | (R)-4-formyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 1.5 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C=O)(C)C | C11H19NO4
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
product | (S)-2,2-dimethyl-4-((E)-2-phenyl-propenyl)-oxazolidine-3-carboxylic acid tert-butyl ester | 720 mg | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1\C=C(/C)\C1=CC=CC=C1)(C)C | C19H27NO3
